datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[O-:10]C(C1=C(C([CH:20](OCC)=[O:21])O)C=CC=C1)C>>[O-:21][CH:20]2(OCC)C(C3=C(C([O:10]2)C)C=CC=C3)O 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[NH:10]([H])C([H])C([H])C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C([H])C1[H] 10=20;20,21=21"
"[H][NH:10][H].CC[NH+:21]=[C:20]([NH][H])[O]CC.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[O]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[NH:10](C)C(C)C(O)C([H])C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C([H])C(O)C(C)[NH+:10]1(C) 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OC)CC)[H]>>C(C(O[C:20](=[O:10])OC)[H])([O-:21])CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([Na])C(CC)C([H])C([H])C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C([H])C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[H]N([C:20](=[O:10])O[H])C.[O-:21]CC>>[H]N([C:20]([O-:10])(O[H])[O:21]CC)C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[OH:10]C([H])/C([H])=C([H])\C(C)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)C([H])=C([H])C([H])[OH+:10]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O]C([H])C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(CC)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[NH:10]([H])C(C(C1=C(C=CC=C1)[CH:20](OCC)=[O:21])O)C>>[O-:21][CH:20]2(OCC)C3=C(C(C([NH+:10]2([H]))C)O)C=CC=C3  10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[O:10]([Na])C([H])C(C)/C([H])=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C([H])C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21]CC>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)CC 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21]CCCCCC>>[H]C1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[O-:21][C:20]1(C)[O:10]C(C)C(C)C1O>>[O-:10]C(C)C(C)C([C:20](C)=[O:21])O 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)CC)CC)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CC)C 10=20;20,21=21"
"[Na][O+:21]([C:20]([O-:10])(OC)OCC)C1=CC=CC=C1>>[Na][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OC)OCC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
